US07285563B2
2,4-Difluoro-6-hydroxybenzaldehyde
To a solution of 2,4-difluoro-6-methoxybenzaldehyde (Description 69, 11.2 g; 77.8 mmol) in anhydrous dichloromethane (500 ml) cooled at −78° C. was added boron tribromide (9.47 ml; 85.58 mmol) dropwise over 10 minutes. After complete addition the mixture was allowed to warm to room temperature and stirred overnight. The mixture was poured onto ice/water (1 litre) and extracted with DCM (3×400 ml). The combined organic layers were washed with water (1 litre), saturated NaCl (500 ml), dried over Na2SO4, filtered and evaporated. The residue was purified by column chromatography on silica elution with 10% diethyl ether/isohexanes to give the title compound (9.2 g, 75%) as an orange oil.

reactant | 2,4-difluoro-6-methoxybenzaldehyde | 77.8 mmol, 11.2 g | FC1=C(C=O)C(=CC(=C1)F)OC | C8H6F2O2
reactant | boron tribromide | 85.58 mmol, 9.47 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2,4-Difluoro-6-hydroxybenzaldehyde | 9.2 g, 75% | FC1=C(C=O)C(=CC(=C1)F)O | C7H4F2O2
